US04925879
2-(Morpholino)ethylamine (20 g) was heated at 175°-180° C. and 1-(4-chlorophenyl)cyclobutyl-2-methoxyethanone (20 g) prepared as described in Example 206 was added dropwise with stirring over 1 hour. The mixture was stirred at 180° C. for a further hour. A stream of nitrogen was passed through the reaction mixture to remove any water formed. The mixture was cooled and added dropwise to a suspension of sodium borohydride (10 g) in propan-2-ol (800 ml). The mixture was then heated under reflux for 3 hours. Propan-2-ol was evaporated and an ice/water mixture was added to the residue which was cooled and acidified with 5N hydrochloric acid. The acidified mixture was basified and extracted with ether. Hydrogen chloride gas was passed into the dried extract which was then evaporated to dryness. The residue was heated with propan-2-ol, filtered and the filtrate evaporated to dryness. The residue was partitioned between ether and 2N hydrochloric acid. The acid layer was washed with ether, basified and extracted with ether. Hydrogen chloride gas was passed into the ether extract which was then evaporated to dryness to give a residue which was recrystallised from propan-2-ol to give N-(2-morpholinoethyl)-1-[1-(4-chlorophenyl)cyclobutyl]-2-methoxyethylamine dihydrochloride (m.p. 234°-237° C.).

reactant | 2-(Morpholino)ethylamine | 20 g | O1CCN(CC1)CCN | C6H14N2O
reactant | 1-(4-chlorophenyl)cyclobutyl-2-methoxyethanone | 20 g | ClC1=CC=C(C=C1)C1(CCC1)C(COC)=O | C13H15ClO2
reactant | sodium borohydride | 10 g | [BH4-].[Na+]
solvent | propan-2-ol | 800 ml | CC(C)O | C3H8O
product | N-(2-morpholinoethyl)-1-[1-(4-chlorophenyl)cyclobutyl]-2-methoxyethylamine dihydrochloride | Cl.Cl.O1CCN(CC1)CCNC(COC)C1(CCC1)C1=CC=C(C=C1)Cl | InChI=1S/C19H29ClN2O2.2ClH/c1-23-15-18(21-9-10-22-11-13-24-14-12-22)19(7-2-8-19)16-3-5-17(20)6-4-16;;/h3-6,18,21H,2,7-15H2,1H3;2*1H
